US07750017B2
Preparation of N-{3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}-7-[3-(4-methylpiperazin-1-yl)-3-oxopropyl][1]benzothieno[2,3-d]pyrimidin-4-amine
3-[4-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)[1]benzothieno[2,3-d]pyrimidin-7-yl]propanoic acid (25 mg, 0.05 mmol, 1 equiv), 4-methyl piperazine (6 mg, 0.06 mmol, 1.2 equiv), 1-[3-(dimethylaminopropyl)]-3-ethyl carbodiimide (14.1 mg, 0.07 mmol, 1.5 equiv), 4-methyl morpholine (10 mg, 0.1 mmol, 2 equiv) and 1-hydroxybenzotriazole (14 mg, 0.1 mmol, 2 equiv) were mixed in DMF and stirred at rt for 16 h. Water and EtOAc were added and extraction was preformed 3 times. Organic layers was concentrated and purified by preparative TLC using 5% MeOH/DCM to yield a solid product (18.5 mg, 64%). 1H-NMR (DMSO-d6) δ 8.94 (s, 1H), 8.49 (s, 1H), 8.45 (d, 1H), 7.96 (d, 1H), 7.74 (d, 1H), 7.52 (dd, 1H), 7.45 (m, 2H), 7.30 (m, 2H), 7.23 (d, 1H), 7.16 (m, 1H), 5.26 (s, 2H), 3.41 (m, 4H), 2.99 (t, 2H), 2.72 (t, 2H), 2.20 (m, 4H), 2.13 (s, 3H); LCMS RT=2.87 min, [M+H]+=590.2

reactant | 3-[4-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)[1]benzothieno[2,3-d]pyrimidin-7-yl]propanoic acid | 0.05 mmol, 25 mg, 1 equiv | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC=1C2=C(N=CN1)SC1=C2C=CC(=C1)CCC(=O)O | C26H19ClFN3O3S
reactant | 4-methyl piperazine | 0.06 mmol, 6 mg, 1.2 equiv | CN1CCNCC1 | C5H12N2
reactant | 4-methyl morpholine | 0.1 mmol, 10 mg, 2 equiv | CN1CCOCC1 | C5H11NO
reactant | 1-hydroxybenzotriazole | 0.1 mmol, 14 mg, 2 equiv | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | DMF | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | Water | O | H2O
product | N-{3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}-7-[3-(4-methylpiperazin-1-yl)-3-oxopropyl][1]benzothieno[2,3-d]pyrimidin-4-amine | 18.5 mg, 64% | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC=1C2=C(N=CN1)SC1=C2C=CC(=C1)CCC(=O)N1CCN(CC1)C | C31H29ClFN5O2S
